Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Suprapubic mass

 
Major Surgical or Invasive Procedure:
___ - ___ suprapubic abscess aspiration and drainage 

 
History of Present Illness:
History obtained from patient from me (patient is ___
speaking but also speaks ___, daughter ___-
___- ___ speaking), OSH records and ED dashboard. 

Ms. ___ is a ___ ___ female
with a history of hypertension, hyperlipidemia, history of
palpitations, 2 C-sections in ___ (18 and ___ years ago), and
surgery on her neck in ___ to remove a "lump" (unclear
diagnosis, no chemo or radiation, occurred ___ years ago) who
presents with ~3 weeks of a lower abdominal mass.

She states that she has noted progressive pain and swelling in 
an
area just above her pubis for about 3 weeks now. Her PCP had
ordered an ultrasound for next week, but this had not occurred
yet and patient presented due to pain intolerance. 

She does not recall any trauma or skin barrier disruption, and
she has no known major immunosuppression, prior skin infection,
or skin  inflammation.

The area has become progressively painful and swollen, and she
notices an indurated mass when she feels in that area. She took
Tylenol at home which seemed to help with the pain (the pain
waxes and wanes). Sometimes she cannot sleep because of the pain
she cannot lay flat and has to sleep on her side but otherwise 
no
obvious factors seem to trigger the pain. In particular, bowel
and urinary movements don't cause the pain.

She has not had fevers or chills (although daughter states she
may have had some chills and sweats in the last day in the ED).
She has not had any recent increase in malaise or fatigue, 
weight
loss, or appetite changes. No frank abdominal pain. No nausea or
vomiting. No diarrhea or constipation. No dysuria. No hematuria,
hematochezia, or melena. No vaginal symptoms. No chest pain or
shortness of breath. She has not noticed any swollen lumps
anywhere else in her body. She has not had any issues with her
neck since her neck surgery ___ years ago.

Her history is significant for having had a colonoscopy about 
two
months ago which was normal. She had some black stools for a few
days after colonoscopy, now resolved. She has never been
hospitalized for any infections or received antibiotics; only
stay in hospital is two C-sections as above.

In the ED, initial vitals: 10 | 97.1 | 94 | 162/92 | 16 | 100% 
RA

- Exam notable for: "There is an indurated lump just above the
pubic symphysis measuring about 3 cm in diameter, slightly left
of midline, with some surrounding fullness. This mass occurs at
the bottom of a vertical incision scar that the patient 
indicates
was for her prior C-sections. There are no overlying skin
changes. Otherwise, no rash, warm and dry."

- Labs notable for WBC of 11.5 with 72.5% neutrophils; otherwise
negative lactate. 

- Imaging notable for:  
___ CT PELVIS w/ CONTRAST 
Redemonstration of 2.7 x 2.3 x 4.1 cm rim enhancing,
multiloculated, hypodense collection in the subcutaneous soft
tissues of the left aspect of the mons pubis, likely reflective
of an abscess. 
Recommend correlation with direct sampling of fluid and ensuring
clinical resolution of this finding after treatment.

___ US ABDOMINAL WALL SOFT TISSUE U/S: 2.9 x 2.0 x 3.8 cm
heterogeneous, hypoechoic area on the left side of the pubis 
mons
with peripheral vascularity without demonstrable central
vascularity. Findings are most consistent with underlying soft
tissue abscess.

She was given:  
- 1459: 4mg IV morphine
- 1503: 4mg IV zofran
- 1L NS
- ___: 4mg Ondansetron
- ___: 1g IV Acetaminophen 

- Vitals prior to transfer: 
T 97.9 HR 55 BP 116/64 RR 16 O2 Sat 99% RA

On the floor, patient's pain is ___. She is otherwise resting
comfortably. Patient and daughter are hopeful that she will be
able to be discharged soon, before ___.

 
Past Medical History:
- HTN
- HLD
- GERD
- Restless legs
- Cervical dorsopathy
- Cough variant asthma
- Allergic rhinitis
- Arthritis - lower back
- Vitamin d deficiency
- Migraines
- Left kidney cyst and a right simple cyst on cardiac MRI 
___
- 2 x C-section with BTL during after second C-section

 
Social History:
___
Family History:
No major medical problems, immunocompromise or malignancy other
than her father having lung cancer (alcohol use and smoker)
Father- deceased
Mother- alive in ___
2 brothers- healthy
1 sister- healthy
2 children- healthy

 
Physical Exam:
ADMISSION EXAM
===============
VITALS: T 98.4 BP  153/87 HR  53 RR 16 O2 Sat  96%  RA  
BMI 23, normal weight.
General: Well-appearing female in no acute distress
HEENT: PERRL, EOMI. No cervical or supraclavicular
lymphadenopathy; no thyroidomegaly.
CV:  Regular rate and rhythm, no murmurs
Lungs:   Clear to auscultation bilaterally, normal work of
breathing, appears comfortable. No wheezes or crackles.
Abdomen: Prior vertical incision. Patient has 3 x 3 x 4 cm mass
left of the pubic symphysis which is tender to palpation. There
is no erythema or induration over. No skin trauma. No pelvic
lymphadenopathy appreciated.
Ext:  No lower extremity edema
Skin:  No rashes. No bruising or hematoma.
Neuro: Alert, oriented, appropriate. No neuro deficits
appreciated.

DISCHARGE EXAM
===============
VITALS: Reviewed in OMR
General: Well-appearing female in no acute distress
HEENT: PERRL, EOMI.
CV:  Regular rate and rhythm, no murmurs
Lungs:   Clear to auscultation bilaterally, normal work of
breathing, appears comfortable. No wheezes or crackles.
Abdomen: Prior vertical incision. Patient has 3 x 3 x 4 cm mass
left of the pubic symphysis which is tender to palpation. There
is no erythema or induration over. No skin trauma. No pelvic
lymphadenopathy appreciated.
Ext:  No lower extremity edema
Skin:  No rashes. No bruising or hematoma.
Neuro: Alert, oriented, appropriate. No neuro deficits
appreciated.
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:53PM BLOOD WBC-11.5* RBC-4.61 Hgb-13.2 Hct-42.4 
MCV-92 MCH-28.6 MCHC-31.1* RDW-13.3 RDWSD-45.0 Plt ___
___ 01:53PM BLOOD Neuts-72.5* ___ Monos-6.7 
Eos-0.3* Baso-0.5 Im ___ AbsNeut-8.33* AbsLymp-2.25 
AbsMono-0.77 AbsEos-0.04 AbsBaso-0.06
___ 01:53PM BLOOD Glucose-102* UreaN-7 Creat-0.5 Na-144 
K-3.7 Cl-103 HCO3-27 AnGap-14
___ 01:53PM BLOOD ALT-8 AST-15 AlkPhos-98 TotBili-0.3
___ 01:53PM BLOOD Lipase-20
___ 01:53PM BLOOD Albumin-4.5
___ 01:53PM BLOOD TSH-0.80
___ 01:53PM BLOOD CRP-2.1
___ 01:56PM BLOOD Lactate-1.2

MICRO/OTHER PERTINENT LABS
===========================
___ 1:53 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 9:26 am ABSCESS      Source: suprapubic abscess. 

   GRAM STAIN (Pending): 

   FLUID CULTURE (Pending): 

   ANAEROBIC CULTURE (Pending): 

   FUNGAL CULTURE (Pending): 

   ACID FAST SMEAR (Pending): 

   ACID FAST CULTURE (Pending): 

IMAGING
========
ABD US ___
2.9 x 2.0 x 3.8 cm heterogeneous, irregularly marginated, 
hypoechoic area with 
mild internal vascularity, most consistent with soft tissue 
phlegmon/abscess.  
If I&D is not performed, short interval ultrasound follow-up, 
i.e.   in ___ 
weeks, is recommended to ensure resolution. 

CT PELVIS ___
Redemonstration of 2.7 x 2.3 x 4.1 cm rim enhancing, 
multiloculated, hypodense 
collection in the subcutaneous soft tissues of the left aspect 
of the mons 
pubis, likely reflective of an abscess.  Recommend correlation 
with direct 
sampling of fluid and ensuring clinical resolution of this 
finding after 
treatment. 

ASPIRATION ___
1. Successful ultrasound-guided aspiration of a midline/left 
parasagittal 
suprapubic subcutaneous abscess measuring 2.3 x 2.7 cm 
2. Purulent fluid was aspirated with total of 5 cc which was 
sent for 
microbiology and culture. 
  
DISCHARGE LABS
===============
___ 07:40AM BLOOD WBC-10.2* RBC-4.33 Hgb-12.6 Hct-38.4 
MCV-89 MCH-29.1 MCHC-32.8 RDW-13.1 RDWSD-43.0 Plt ___
___ 07:40AM BLOOD Glucose-62* UreaN-13 Creat-0.6 Na-144 
K-3.5 Cl-103 HCO3-23 AnGap-18
___ 07:40AM BLOOD Glucose-62* UreaN-13 Creat-0.6 Na-144 
K-3.5 Cl-103 HCO3-23 AnGap-18
 
Brief Hospital Course:
SUMMARY
=======
Ms. ___ is a ___ woman with a history of 
hypertension, hyperlipidemia, palpitations, 2 C-sections in 
___, and surgery on her neck in ___ to remove a "lump," who 
presents with 3 weeks of a lower abdominal swelling over her 
mons pubis. She underwent ultrasound guided aspiration of the 
abscess which was purulent in nature and was sent for gram stain 
and cultures. She was discharged with a 5 day course of Bactrim 
and 1 week follow up with her PCP.

ACUTE ISSUES
============
# Suprapubic lesion
Presented with 3 weeks of worsening hip pain. CT pelvis with 
contrast and focused ultrasound demonstrating approximately 3 cm 
collection consistent mostly with abscess versus phlegmon. 
Patient did have risk factors for TB as she was born in an 
endemic area. She is up-to-date on age-appropriate cancer 
screening on day of admission. On admission she was not started 
on antibiotics as her white count was essentially normal, she 
did not have fevers or chills, and aside from pain was 
essentially asymptomatic. Interventional radiology sampled this 
collection which was purulent, and it was sent for gram stain 
and cultures. Suprapubic subcutaneous abscess was measured as 
2.3 x 2.7 cm and 5cc was drained. Her pain was well controlled 
with Tylenol and she was discharged with 1 week follow up with 
her PCP. Discharged with 5 day course of Bactrim for soft tissue 
infection, pending grain stain and cultures. 

CHRONIC/STABLE PROBLEMS
=======================
# Hypertension
Continued lisinopril 20mg daily and verapamil 120mg daily

# Hyperlipidemia: 
Continued atorvastatin 40mg daily

# GERD without esophagitis
Continued omeprazole 20mg daily

# Seasonal allergies:
# Allergic rhinitis:
On PRN loratidine 10mg daily and fluticasone which patient is 
not taking regularly

# Mild intermittent asthma, uncomplicated with cough variant
On PRN albuterol and cheratussin PRN which patient is not 
regularly taking

# Macular degeneration: On Alaway
Held while inpatient due to being nonformulary, patient only 
uses PRN

# Hx of iron deficiency anemia:
Hx of ferrous sulfate 650mg daily- no longer taking. Hgb Stable 
here

TRANSITIONAL ISSUES
===================
Discharge WBC: 10.2

[ ] Follow up on pain/swelling on mons pubis. If concern for 
worsening infection, would consider surgical consult for I&D.
[ ] Follow up gram stain and cultures from I&D of abscess ___

#CODE: FULL CODE presumed
#CONTACT: ___ (daughter)- ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Loratadine 10 mg PO DAILY 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
QID:PRN 
6. Lisinopril 20 mg PO DAILY 
7. Alaway (ketotifen fumarate) 0.025 % (0.035 %) ophthalmic 
(eye) Q8H 
8. Omeprazole 20 mg PO DAILY 
9. Cheratussin AC (codeine-guaifenesin) ___ mg/5 mL oral 
Q8H:PRN 
10. Verapamil SR 120 mg PO Q24H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0 
3.  Alaway (ketotifen fumarate) 0.025 % (0.035 %) ophthalmic 
(eye) Q8H  
4.  Atorvastatin 40 mg PO QPM  
5.  Cheratussin AC (codeine-guaifenesin) ___ mg/5 mL oral 
Q8H:PRN  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
8.  Lisinopril 20 mg PO DAILY  
9.  Loratadine 10 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
QID:PRN  
12.  Verapamil SR 120 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
=======
Soft Tissue Abscess

Secondary
=========
Hypertension
Hyperlipidemia
Gastroesophageal Reflux Disease
Restless Leg Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

Thank you for coming to ___ for your care. Please read the 
following directions carefully:

WHY WAS I ADMITTED TO THE HOSPITAL? 
- You were admitted to the hospital because you had 3 weeks of 
pelvic pain and a growing lump.

WHAT WAS DONE FOR ME WHILE I WAS HERE?
- You had a CT scan and an ultrasound which were concerning for 
a developing abscess. 

- Our interventional radiology colleagues sampled the area which 
showed an infection. The fluid was drained and you were 
prescribed a 5 day course of antibiotics to treat your 
infection.

WHAT DO I NEED TO DO WHEN I LEAVE THE HOSPITAL? 

-Please take all your medications as prescribed.  Please keep 
all your appointments as listed below
 
Followup Instructions:
___